### PR TITLE
dense and denseNE

### PR DESCRIPTION
**Pull request by mkerjean**
A definition of dense for a topological set and a first lemma on it.

### CODE REVIEW

File: theories/topology.v [hunk 1]
```diff
@@ -4702,3 +4702,18 @@ exists (x + e%:num / 2)%R; apply: Ae; last first.
 rewrite /ball /= opprD addrA subrr distrC subr0 ger0_norm //.
 by rewrite {2}(splitr e%:num) ltr_spaddl.
 Qed.
+
+Section density.
+
+Definition dense (T : topologicalType) (S : T -> Prop) :=
```
Comment (affeldt-aist) [inline theories/topology.v:4708]: `T -> Prop` -> `set T`?

File: theories/topology.v [hunk 2]
```diff
@@ -4702,3 +4702,18 @@ exists (x + e%:num / 2)%R; apply: Ae; last first.
...
+  forall (O : set T), O !=set0 -> open O ->  O `&` S !=set0.
+
+Lemma denseNE (T : topologicalType) (S : set T) : not (dense S) ->
+  exists O, (exists x, (open_nbhs x) O) /\ (O `&` S = set0).
```
Comment (CohenCyril) [inline theories/topology.v:4712]:
```suggestion
Lemma denseNE (T : topologicalType) (S : set T) : ~ dense S ->
  exists O, (exists x, open_nbhs x O) /\ (O `&` S = set0).
```

File: theories/topology.v (hunk 1 above)
Comment (CohenCyril) [reply theories/topology.v:4708]:
```suggestion
Definition dense (T : topologicalType) (S : set T) :=
```

**Comment by affeldt-aist** [comment]
I did a rebase and amend to put email addresses to the commit message but couldn't find Theo's one. :-/

**Comment by mkerjean** [comment]
> I did a rebase and amend to put email addresses to the commit message but couldn't find Theo's one. :-/

His username on github is @tvignon. (https://github.com/tvignon)

**Comment by affeldt-aist** [comment]
> > I did a rebase and amend to put email addresses to the commit message but couldn't find Theo's one. :-/
> 
> His username on github is @tvignon. (https://github.com/tvignon)

I put `Co-Authored-By: Theo Vignon <tvignon@users.noreply.github.com>` in the commit message, that should do it.

**Review by affeldt-aist — APPROVED** [review]
